US08431575B2
To a stirred mixture of 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butylester 3-methyl ester (10 mmol, 2.71 g) and DIEA (1 mL) in DCM was added methoxymethyl chloride (1.3 mL) drop-wise and continued stirring for 16 h at room temperature. Volatiles were removed under reduced pressure, the resultant residue was taken up in ethyl acetate (50 mL), washed with water (25 mL), dried the organic layer, filtered and concentrated under reduced pressure. The resultant residue was purified by flash column chromatography using mixture of hexanes and ethyl acetate to provide 4-methoxymethoxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester.

reactant | 4-oxo-piperidine-1,3-dicarboxylic acid 1-tert-butylester 3-methyl ester | 10 mmol, 2.71 g | COC(=O)C1CN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO5
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methoxymethyl chloride | 1.3 mL | COCCl | C2H5ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-methoxymethoxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C=1CN(CCC1OCOC)C(=O)OC(C)(C)C | C14H23NO6
